US08445118B2
(29) Magnesium Catecholate (Molecular Weight: 132)
A solution of catechol (2.20 g, 20 mmol) and toluene (45 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 2.29 g (20 mmol) of magnesium(II) ethoxide was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-magnesium complex) was black in color. The yield amount was 2.57 g (19.5 mmol), and the yield percentage was 97%. Catechol-magnesium complex was dissolved into acetylacetone until saturated, and then filtered to be used as a coating liquid.

reactant | catechol | 20 mmol, 2.20 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | magnesium(II) ethoxide | 20 mmol, 2.29 g | [O-]CC.[Mg+2].[O-]CC
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | Magnesium Catecholate | C=1([O-])C([O-])=CC=CC1.[Mg+2] | InChI=1S/C6H6O2.Mg/c7-5-3-1-2-4-6(5)8;/h1-4,7-8H;/q;+2/p-2
